US08252820B2
A. 2,7-Bis-benzyloxy-3,6-dibromonaphthalene
To a solution of 3,6-dibromonaphthalene-2,7-diol (67.64 g, 212.7 mmol) in DMF (400 mL) is added K2CO3 (64.7 g, 468.0 mmol). Benzylbromide (56.0 mL, 468 mmol) is added to the reaction (slight exotherm) and the mixture is stirred at RT for 2 days. The solid is filtered washing with 1:4 DMF/H2O and set aside for further extraction. The filtrate is extracted 3× with EtOAc and washed with brine. The EtOAc extracts are concentrated under reduced pressure, dissolved in minimum methylene chloride and triturated into hexanes to give product. The filtered solids are washed with hexanes to give additional material which is combined with the triturated solid to give the title compound.

reactant | 3,6-dibromonaphthalene-2,7-diol | 212.7 mmol, 67.64 g | BrC=1C(=CC2=CC(=C(C=C2C1)Br)O)O | C10H6Br2O2
reactant | K2CO3 | 468.0 mmol, 64.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Benzylbromide | 468 mmol, 56.0 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 2,7-Bis-benzyloxy-3,6-dibromonaphthalene | C(C1=CC=CC=C1)OC1=CC2=CC(=C(C=C2C=C1Br)Br)OCC1=CC=CC=C1 | C24H18Br2O2
